US04497813
The solution of 2.24 g of 5-(2-amino-2-methylpropoxy)salicylamide in 30 ml of dioxan is refluxed for 7 hours after the addition of 2.3 g of 2-(2,3-epoxypropoxy)-benzonitrile, and then concentrated by evaporation. The residue is divided between 10 ml of 2N hydrochloric acid and 100 ml of ethyl acetate. The acidic aqueous phase is rendered alkaline with concentrated ammonia solution, the base is extracted with ethyl acetate and the solvent is evaporated off, whereupon an oil is obtained from which, by crystallisation from isopropanol and recrystallisation from ethyl acetate, 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-1,1-dimethylethylamino]-3-(2-cyanophenoxy)propan-2-ol having a melting point of 125°-126° is obtained.

reactant | 5-(2-amino-2-methylpropoxy)salicylamide | 2.24 g | NC(COC1=CC=C(C(C(=O)N)=C1)O)(C)C | C11H16N2O3
reactant | 2-(2,3-epoxypropoxy)-benzonitrile | 2.3 g | O1C(COC2=C(C#N)C=CC=C2)C1 | C10H9NO2
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-1,1-dimethylethylamino]-3-(2-cyanophenoxy)propan-2-ol | C(N)(=O)C=1C=C(OCC(C)(C)NCC(COC2=C(C=CC=C2)C#N)O)C=CC1O | C21H25N3O5
